US07429609B2
5-Bromo-6-fluoro-3-iodo-1-trityl-1H-indazole
To a solution of 3.0 g of 5-bromo-6-fluoro-3-iodo-1H-indazole in N,N-dimethylformamide in 150 mL was added 0.42 g of sodium hydride at room temperature, and the resultant solution was stirred for 15 minutes, added with 2.45 g of trityl-chloride, and stirred at this temperature for 1 hour. After adding water and diluting with ethyl acetate, washing successively with aqueous ammonium chloride and saturated brine and drying over anhydrous magnesium sulfate, the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:30-1:5), and the resultant product was added with n-hexane. Then the precipitated crystals were washed with diethyl ether:n-hexane=1:10, to afford 3.79 g of the title compound as colorless crystals.

reactant | 5-bromo-6-fluoro-3-iodo-1H-indazole | 3.0 g | BrC=1C=C2C(=NNC2=CC1F)I | C7H3BrFIN2
reactant | sodium hydride | 0.42 g | [H-].[Na+]
reactant | trityl-chloride | 2.45 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-6-fluoro-3-iodo-1-trityl-1H-indazole | 3.79 g | BrC=1C=C2C(=NN(C2=CC1F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)I | C26H17BrFIN2
